US04185115
A solution of 4.7 g. of 2-(α-naphthyl)ethyl bromide and 6.6 g. of ethyl p-aminobenzoate in 50 ml. of hexamethylphosphoramide is stirred and heated at 110° C. for 16 hours. The mixture is cooled, diluted with 50 ml. of water and filtered to give a crude product, which is recrystallized from ethanol. Recrystallization gives ethyl 4-[2-(α-naphthyl)ethylamino]benzoate as white crystals, m.p. 104°-106° C.

reactant | 2-(α-naphthyl)ethyl bromide | C1(=CC=CC2=CC=CC=C12)CCBr | C12H11Br
reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 4-[2-(α-naphthyl)ethylamino]benzoate | C1(=CC=CC2=CC=CC=C12)CCNC1=CC=C(C(=O)OCC)C=C1 | C21H21NO2
